US05114945
(i) Methyl 6-(1-pyrrolidinylmethyl)pyridine-3-carboxylate
A solution of methyl 6-methyl-3-pyridinecarboxylate (0.43 g) N-bromosuccinimide (0.59 g) and benzoylperoxide (50 mg) in dry carbon tetrachloride (10 ml) was stirred at 22° and irradiated with a 200 w light bulb for 2 days. Pyrrolidine (2.4 ml) was added and after 15 min the solution was partitioned between dichloromethane (20 ml) and 2N sodium carbonate solution (20 ml). The organic phase was washed with water, saturated brine, dried and evaporated to leave an oil (0.68 g). The oil was purified by flash chromatography eluting with a mixture of dichloromethane, ethanol and ammonia (300:8:1) to give the title compound as an oil (0.22 g). T.l.c. silica (Dichloromethane:methanol: 0.88 ammonia 300:8:1) Rf 0.5.

reactant | methyl 6-methyl-3-pyridinecarboxylate | 0.43 g | CC1=CC=C(C=N1)C(=O)OC | C8H9NO2
reactant | benzoylperoxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Pyrrolidine | 2.4 ml | N1CCCC1 | C4H9N
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 6-(1-pyrrolidinylmethyl)pyridine-3-carboxylate | 0.68 g | N1(CCCC1)CC1=CC=C(C=N1)C(=O)OC | C12H16N2O2
